US08242104B2
To a solution of 1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone (10 g, 65.3 mmol) in acetic acid (1 mL) and THF (100 mL) was added a solution of PTT (phenyltrimethylammonium tribromide, 24.5 g, 65.3 mmol) in THF (100 mL) over 20 min. The reaction mixture was heated at 75° C. before cooling to RT. The resultant mixture was concentrated in vacuo and the products partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried (Na2SO4), filtered and concentrated in vacuo to give a residue which was subjected to flash chromatography (SiO2, gradient 0 to 20% ethyl acetate in cyclohexane) to give 2-Bromo-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone as an oil (5.4 g, 36%). 1H NMR δ (ppm) (CDCl3): 7.98 (1H, s), 5.53-5.42 (1H, m), 4.69 (2H, s), 1.52 (6H, d, J=6.63 Hz).

reactant | 1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone | 65.3 mmol, 10 g | C(C)(C)N1N=CN=C1C(C)=O | C7H11N3O
reactant | phenyltrimethylammonium tribromide | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Bromo-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone | 5.4 g, 36% | BrCC(=O)C=1N(N=CN1)C(C)C | C7H10BrN3O
